US05641430
8.3 g (60 mmols) of potassium carbonate was added to a mixture of 7.9 g (20 mmols) of 4-(trans-4-bromomethylcyclohexyl)-1-phenyl-1-n-propyl-1-silacyclohexane, 3.6 g (20 mmols) of 4-trifluoromethoxyphenol and 50 ml of dimethylformamide, followed by heating under reflux for 10 hours. The reaction mixture was after-treated by a usual manner and purified through chromatography to obtain 7.0 g (yield: 71%) of 4-(trans-4-(4-trifluoromethoxyphenyloxymethyl)cyclohexyl)-1-phenyl-1-n-propyl-1-silacyclohexane. The results of IR and NMR analyses are shown below.

reactant | potassium carbonate | 60 mmols, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(trans-4-bromomethylcyclohexyl)-1-phenyl-1-n-propyl-1-silacyclohexane | 20 mmols, 7.9 g | BrC[C@@H]1CC[C@H](CC1)C1CC[Si](CC1)(CCC)C1=CC=CC=C1 | C21H33BrSi
reactant | 4-trifluoromethoxyphenol | 20 mmols, 3.6 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(trans-4-(4-trifluoromethoxyphenyloxymethyl)cyclohexyl)-1-phenyl-1-n-propyl-1-silacyclohexane | 7.0 g, yield: 71% | FC(OC1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)C1CC[Si](CC1)(CCC)C1=CC=CC=C1)(F)F | C28H37F3O2Si
